US08022222B2
Using the method of Example 3, Step B, 4-methylthiazol-2-amine (25.2 mL, 10.1 mmol), ethyl 6-chloro-4-(naphthalen-1-yloxy)nicotinate (3.63 g, 11.1 mmol), potassium phosphate (2.35 g, 11.1 mmol), tris(dibenzylideneacetone)-dipalladium (0) (0.231 g, 0.252 mmol) and 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene (0.160 g, 0.277 mmol) were reacted in toluene (25 mL) and water (8 mL) to afford ethyl 6-(4-methylthiazol-2-ylamino)-4-(naphthalen-1-yloxy)nicotinate (3.30 g, 80.0% yield) as yellow solid. 1H NMR (CDCl3) δ 9.90 (bs, 1H), 8.91 (s, 1H), 7.97 (d, 1H), 7.91 (d, 1H), 7.77 (d, 1H), 7.53 (m, 1H), 7.47 (m, 1H), 7.43 (m, 1H), 7.14 (d, 1H), 6.18 (s, 1H), 5.90 (s, 1H), 4.37 (quart, 2H), 1.76 (s, 3H), 1.33 (t, 3H); Mass spectrum (apci) m/z=406 (100) (M+H).

reactant | 4-methylthiazol-2-amine | 10.1 mmol, 25.2 mL | CC=1N=C(SC1)N | C4H6N2S
reactant | ethyl 6-chloro-4-(naphthalen-1-yloxy)nicotinate | 11.1 mmol, 3.63 g | ClC1=NC=C(C(=O)OCC)C(=C1)OC1=CC=CC2=CC=CC=C12 | C18H14ClNO3
reactant | potassium phosphate | 11.1 mmol, 2.35 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | 8 mL | O | H2O
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)-dipalladium (0) | 0.252 mmol, 0.231 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene | 0.277 mmol, 0.160 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | ethyl 6-(4-methylthiazol-2-ylamino)-4-(naphthalen-1-yloxy)nicotinate | 3.30 g, 80.0% yield | CC=1N=C(SC1)NC1=NC=C(C(=O)OCC)C(=C1)OC1=CC=CC2=CC=CC=C12 | C22H19N3O3S
